US06743791B2
4-(2-Mercapto-5-methyl-pyrimidin-4-yl)-1H-pyrrole-2-carboxylic Acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide
4-(3-Dimethylamino-2-methoxymethyl-acryloyl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide (17.6 mmol, 6.0 g) was combined with thiourea (39 mmol, 3.0 g) and potassium carbonate (53 mmol, 7.3 g) in ethanol (50 mL) and the resulting suspension was heated at 90° C. for 24 hrs. The solvent was removed in vacuo and the resulting black solid was diluted with water and the solid was removed by filtration. The solid was washed with ethyl acetate twice and the aqueous solution was acidified to pH 5-6 with HCl (2N). The solid formed was removed by filtration and the aqueous solution was then extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulfate. The solvent was removed under vacuum to afford the title compound as a brown solid (3.0 g, 48% yield). HPLC Method B, Rt=3.7 minutes, 1H NMR consistent with structure.

reactant | 4-(3-Dimethylamino-2-methoxymethyl-acryloyl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide | 17.6 mmol, 6.0 g | OC[C@H](C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C(C(=CN(C)C)COC)=O | C20H25N3O4
reactant | thiourea | 39 mmol, 3.0 g | NC(=S)N | CH4N2S
reactant | potassium carbonate | 53 mmol, 7.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-(2-Mercapto-5-methyl-pyrimidin-4-yl)-1H-pyrrole-2-carboxylic Acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide | 3.0 g, 48% yield | OC[C@H](C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C1=NC(=NC=C1C)S | C18H18N4O2S
